US05684020
4-(2,3-Dihydro-7-methoxybenzo-1,4-dioxin-6-yl)-1-[(indan-2-yl)methyl]piperazine
Prepared as described in Example 9, starting from 4-(2,3-dihydro-7-methoxybenzo-1,4-dioxin-6-yl)piperazine (Preparation 5). The fumarate of the title compound melts at 176°-178° C. (ethanol).

reactant | 4-(2,3-dihydro-7-methoxybenzo-1,4-dioxin-6-yl)piperazine | COC=1C(=CC2=C(OCCO2)C1)N1CCNCC1 | C13H18N2O3
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 4-(2,3-Dihydro-7-methoxybenzo-1,4-dioxin-6-yl)-1-[(indan-2-yl)methyl]piperazine | COC=1C(=CC2=C(OCCO2)C1)N1CCN(CC1)CC1CC2=CC=CC=C2C1 | C23H28N2O3
